US07235572B2
In analogy to the procedure described in example 2 c], {6-[5-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester was treated with LiOH to obtain {6-[5-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethoxy]-indol-1-yl}-acetic acid as yellow solid.

reactant | {6-[5-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1N=C(SC1C)C1=CC=C(C=C1)C(F)(F)F)=O | C26H25F3N2O3S
reactant | LiOH | [Li+].[OH-]
product | {6-[5-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethoxy]-indol-1-yl}-acetic acid | CC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)COC1=CC=C2C=CN(C2=C1)CC(=O)O | C22H17F3N2O3S
